Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
melena
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
Mr. ___ is a ___ male with history of gout and
previous upper GI bleed over a year ago now stable on daily ASA
for primary prevention until about 5 days ago when he developed
new recurrence of melena.

He reports a h/o orior upper GI bleed, confirmed on endoscopy 
one
year ago in ___ "2 lesions" per pt, unable to say what
exact dx was, records not available. His previous ulcers were
treated with omeprazole, dietary changes, no abx. He was
continued on his baby aspirin since that time.  

Today he was seen initially at urgent care and was founf to have
heme positive stool so sent to our ED for eval. He denies any
symptoms of dyspnea, LH, palpitations or unintentional weight
loss. No recent NSAIDs use besides 81 ASA, which he stopped
taking 4 days ago when he first noted the melena. He Denies EtOH
or drug use. 
 
 In the ED:  

 - Initial vital signs were: Pain 0 98.6 73 134/86 18 96% RA  

 - Exam notable for:  
 CV: RRR  
 Resp: CTAB  
 Abd: soft NT ND  
 Ext: no c/c/e  
 Guaiac: black stool, guaiac +  
 
- Labs were notable for:  
 6.2 - 12.8/36.4 - 176  
 MCV 89  
 Chem7 WNL  
 ___: 11.2 PTT: 26.8 INR: 1.0  

- Studies performed include:  
 EKG: NSR NA/NA no ischemic changes  
 
-EGD with small clean-based ulcers, almost certainly the cause 
of
bleeding. Recommend PO PPI daily, full strength x2 months,
followed by regular strength daily indefinitely while taking
aspirin. We will follow up biopsies for H pylori. Ok for regular
diet once he wakes up. Ok for discharge now, with a plan for PCP
___ and return precautions. Patient can call us if
questions or concerns. 

Per ED, patient was admitted to medicine for repeat VCBC
overnight with plan to discharge him in am if he has no further
melena or drops in Hgb/Hct. 
 
Past Medical History:
Recurrent upper GI bleeds
Gout
Tonsillectomy, right hernia repair
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
Admission Physical Exam:
========================
VITALS: Afebrile and vital signs stable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge Physical Exam:
========================
VITALS: Afebrile and vital signs stable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission Labs:
===============
___ 12:58PM BLOOD WBC-6.2 RBC-4.08* Hgb-12.8*# Hct-36.4* 
MCV-89 MCH-31.4 MCHC-35.2 RDW-13.0 RDWSD-41.1 Plt ___
___ 12:58PM BLOOD Neuts-62.9 ___ Monos-6.0 Eos-1.3 
Baso-0.6 Im ___ AbsNeut-3.88 AbsLymp-1.77 AbsMono-0.37 
AbsEos-0.08 AbsBaso-0.04
___ 12:58PM BLOOD ___ PTT-26.8 ___
___ 12:58PM BLOOD Glucose-110* UreaN-17 Creat-0.9 Na-140 
K-4.1 Cl-102 HCO3-27 AnGap-11
___ 06:15AM BLOOD ALT-17 AST-21 LD(LDH)-176 AlkPhos-59 
TotBili-0.6

Imaging:
========
EGD:
PPI high dose once daily ___ minutes before breakfast x2 
months
We will contact you with the biopsy results
Follow up with primary care doctor
___ ongoing need for aspirin or any other NSAIDs, would continue 
regular dose PPI daily indefinitely
We will call to arrange treatment for H pylori if found
If ongoing melena despite PPI, can arrange with PCP for repeat 
colonoscopy and small bowel capsule, or call ___ to 
arrange appointment in clinic with Dr. ___

___ Labs:
===============
___ 06:15AM BLOOD WBC-6.2 RBC-3.95* Hgb-12.3* Hct-35.5* 
MCV-90 MCH-31.1 MCHC-34.6 RDW-13.1 RDWSD-41.8 Plt ___
___ 06:15AM BLOOD Neuts-59.7 ___ Monos-7.5 Eos-2.4 
Baso-0.6 Im ___ AbsNeut-3.68 AbsLymp-1.82 AbsMono-0.46 
AbsEos-0.15 AbsBaso-0.04
___ 06:15AM BLOOD ___ PTT-26.1 ___
___ 06:15AM BLOOD Glucose-92 UreaN-18 Creat-1.1 Na-141 
K-4.2 Cl-103 HCO3-27 AnGap-11
 
Brief Hospital Course:
Mr. ___ is a ___ male with history of gout and 
previous upper GI bleed over a year ago now stable on daily ASA 
for primary prevention until about 5 days ago when he developed 
new recurrence of melena.

ACUTE/ACTIVE PROBLEMS:

# Acute upper GI bleed with acute on chronic blood loss anemia:
Underwent EGD by GI before admission found to have small
clean-based ulcers in the antrum and duodenum, almost certainly 
the cause of bleeding. He was observed overnight with no further 
episodes of melena. Hg remained stable. He was started on high 
dose PPI daily which he should continue for two months.

CHRONIC/STABLE PROBLEMS:

# Gout: continued home allopurinol

# HLD: continued Lipitor. Aspirin held at discharge. He denied 
any history of MI, abnormal stress test, or other cardiovascular 
disease

Transitional:
- discharged on omeprazole 40mg daily, which he should continue 
for two months. After two months he should likely transition to 
lower dose daily PPI if taking aspirin
- aspirin held on discharge, please discuss with patient when or 
if to restart
- needs repeat CBC at PCP ___. Hg on discharge was 12.3

> 30 minutes spent on discharge coordination and planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 5 mg PO QPM 
2. Allopurinol ___ mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth daily Disp #*60 
Capsule Refills:*0 
2.  Allopurinol ___ mg PO DAILY  
3.  Atorvastatin 5 mg PO QPM  
4.  Vitamin D 1000 UNIT PO DAILY  
5. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until speaking with your primary doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Acute blood loss anemia
GI bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came into the hospital because you were having dark stools. 
You had a procedure called an endoscopy which found ulcers in 
your stomach and small intestine. It will be very important to 
continue taking the acid lowering medication (omeprazole) after 
you go home. You should take this medication for two months.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___